US07705030B2
Preparation of 2-amino-5-(3-hydroxyphenyl)-3-methyl-5-[1-(2,2,2-trifluoroethyl)-1H-pyrazol-4-yl]-3,5-dihydro-4H-imidazol-4-one
A mixture of 2-amino-5-[3-(benzyloxy)phenyl]-3-methyl-5-[1-(2,2,2-trifluoroethyl)-1H-pyrazol-4-yl]-3,5-dihydro-4H-imidazol-4-one (330 mg, 0.74 mmol) and Pd/C (33 mg) in ethanol (10 ml) is hydrogenated at 45 psi overnight. After removal of the catalyst by filtration, the filtrate is concentrated. The crude material is purified by flash chromatography (silica gel, EtOAc/2.0M ethanolic NH3: 90/10 to 80/20) to afford the title compound as a solid 250 mg (95%). mp: 118-120° C. MS (+) ES: 354 (M+H)+.

reactant | 2-amino-5-[3-(benzyloxy)phenyl]-3-methyl-5-[1-(2,2,2-trifluoroethyl)-1H-pyrazol-4-yl]-3,5-dihydro-4H-imidazol-4-one | 0.74 mmol, 330 mg | NC1=NC(C(N1C)=O)(C=1C=NN(C1)CC(F)(F)F)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C22H20F3N5O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd/C | 33 mg | [Pd] | Pd
product | 2-amino-5-(3-hydroxyphenyl)-3-methyl-5-[1-(2,2,2-trifluoroethyl)-1H-pyrazol-4-yl]-3,5-dihydro-4H-imidazol-4-one | 250 mg, 95% | NC1=NC(C(N1C)=O)(C=1C=NN(C1)CC(F)(F)F)C1=CC(=CC=C1)O | C15H14F3N5O2
